Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"My Effexor isn't working well"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F with PPHx of unspecified eating disorder with 
restrictive and purging features, depression and anxiety for 
years with marked worsening over the past several weeks. She 
reports that she has had suicidal ideation over the past year 
though denies intent or plan. She reports that approximately six 
months ago she was started on Lexapro after she was diagnosed 
with "depression". At that time, she had worsening suicidal 
ideation though never had a plan or acted on these thoughts. At 
that time, she was started on Effexor which was uptitrated. She 
has been on this medication for several months and notes that if 
at all, she feels her depression is worse. She reports that she 
cycles between feeling very happy and very sad on a day-to-day 
basis and often doesn't know the reason for these moods. She 
reports that the last time she felt a "good mood" was one week 
ago.  
She reports she has a history of an eating disorder since the 
age of ___ "on and off". She began treatment at the age of ___. 
She never required ___ medical or psychiatric 
hospitalization due to her eating disorder. She reports 
restrictive eating behaviors and purging by self-induced 
vomiting. She reports she has not been doing these things 
regularly for about a year. The
last time she self-induced vomiting was >1 month ago. 
She reports she has a therapist back in ___ but has never 
seen a psychiatrist. She does not have any outpatient treaters 
in ___. 
She reports that she came to the ___ after her PCP felt it was 
necessary during an outpatient appointment when she mentioned 
that she had had suicidal ideation though denied intent and 
plan. Patient reports feeling like the PCP over reacted and was 
"too proactive". She does report worsening depression over 2 
weeks. She cites stress from school and her parents recently 
separating as being
triggers for this. She reports that her parents' separation this 
year has been extremely stressful for her as she used to be very 
close with her father. Her father visited two weeks ago during 
parents' weekend which was upsetting because she felt like her 
father came only "because my mom ___ come, to show my mom 
that he cares more". She states Be___ has been stressful 
because school has always been easy for her up until now. She 
skipped a grade in grade school, and found college work studying 
child ___ in ___ to be "easy".
She does endorse feelings of hopelessness, worthlessness, and 
decreased energy (more exhausted in the morning and less energy 
for weight-lifting which she usually does 6 days per week), poor 
concentration, lack of motivation, and anhedonia. 

She reports she has gone 24 hours without sleep in the past but 
this is in the context of working on schoolwork. She does report 
going with little sleep for several days in the context of 
feeling anxious and not being able to fall asleep until 4 AM. 
During these times she reports feeling "physically and mentally 
exhausted". 

Of note, per Dr. ___ Note on ___:
"She reported the manic syx incl insomnia (sleep <2hrs and one 
some days does not need sleep), inc energy, impulsivity, inc 
spending, inc religiosity, elation, uncharacteristic behavior, 
racing thoughts have occurred approximately q2wks alternating 
with the depressive syx since middle school.  She notes that the 
syx and frequency did not worsen in setting SSRI/SNRI treatment 
though does report that associated with her depression she seems 
to have inc irritability and anger.  She denied any precipitant 
to cycling of syx, that it spontaneously occurs.  She denied 
AVH, denied psychosis ROS incl TI/TC/TB/telepathy/paranoia, 
denied HI."

Near the end of the interview, patient became upset regarding 
not being able to be discharged today. She reported that she was 
never told she was coming up to the inpatient unit and would not 
be able to leave. She reports in the ___ she was told overnight 
that she would have the choice to decide if she wanted to be 
admitted for inpatient psychiatric treatment or wanted to go 
home and start outpatient psychiatric care and that she was 
never given that choice today. She repeatedly insists on 
speaking to Dr. ___ this though is amenable to 
speaking with the patients right advocate ___. She 
reports she wants to be discharged as she cannot complete her 
homework here and will become stressed and anxious if she misses 
more school. Additionally, she states she needs to go to church 
on ___. 
 
Past Medical History:
Unspecified eating disorder with restrictive and purging sx (in 
remission per patient)

Past Psychiatric History:
Hospitalizations: Denies though this was d/t parents "not
believing in mental illness"
Current treaters and treatment: ___ in ___ 
___
for past couple years; PCP treatment in past Dr. ___
but moved his practice; saw another PCP on one occasion, does 
not
recall name.  Could not connect w psychiatrist in CA d/t lack of
access in area.  Was also in group therapy for eating disorder
over course of a year. 
Medication and ECT trials: Lexapro ___ d/c d/t
worsening depression w SI, Effexor ___ with month
hiatus though pt reports worsened depression w irritability. 
Reported stopped med d/t thinking depression worsened d/t med 
but
restarted when depression worsened further. 
Self-injury: Denies and denies suicide attempts
Harm to others: Denies
Access to weapons: Denies
 
Social History:
B/R ___, ___
Family - 8 siblings - pt is youngest, oldest ___
Housing - dorms at ___ - some college at ___ in ___ studying child
development, transferred to ___ to study ___
Employment - no current
Income - savings
Spiritual - Mormon - important to patient 
Trauma - emotional abuse by parents, otherwise denies
physical/sexual trauma - recent possible stalking by male
acquaintance/friend

___ use history:
Per Dr. ___ note on ___ and confirmed with
patient: 
Denies EtOH, cannabis, cocaine, opiates, ecstasy, hallucinogens,
pills, tobacco
Caffeine - tea 2x/wk 
 
Family History:
Family psychiatric history:
Per Dr. ___ note on ___ and confirmed with
patient: 
Mother - Eating disorder - restrictive in remission, OCD
Sister - OCD, severe post-partum depression
Two sisters w ___ dependence now in remission 
(cocaine,
methamphetamine)
Brother - no official dx of BPAD, but syx of being "Really
intense or really mellow"
Father - very manipulative
 
Physical Exam:
ADMISSION PHYSICAL EXAM:

Physical Examination:
VS: BP: 111/70 HR: 87 temp: 98.7 resp: 14 O2 sat: 98 RA
General- Well-appearing, NAD
Skin- No rashes noted
HEENT- PERRL, EOMI, MMM
Lungs- CTAB
CV- RRR, no murmurs appreciated
Abdomen: Soft, non-distended, non-tender
Extremities- No peripheral edema, distal pulses intact
Neuro-
CN: PERRL, EOMI, face symmetric, sensation intact to light touch
in all 3 divisions, tongue midline
Motor: Normal bulk and tone bilaterally, no abnormal movements.
Full strength throughout 
Sensation: Grossly intact to light touch in all 4 limbs
Gait/Romberg: Steady. Normal stance and posture. No truncal
ataxia. 

Neuropsychiatric Examination:
Appearance: Well-appearing, appears stated age, well-groomed, 
good hygiene, dressed in hospital gown
Behavior: Mostly calm, cooperative and pleasant during 
interview. Becomes tearful at times and irritable regarding 
wanting to be discharged and speak to doctors she saw in 
emergency room
Mood and Affect: "OK", mood-congruent
Thought process: Linear, goal-directed
Thought Content: Passive SI, denies intent or plan. Denies HI, 
AVH. No evidence of delusions. 
Judgment and Insight: Fair/Fair
Cognition:
Attention, orientation, and executive function: DOWB, oriented 
to person, place, and time
Memory: Grossly intact
Fund of knowledge: Average/appropriate
Speech: Normal rate and volume
Language: Fluent ___
 
Pertinent Results:
___ 07:40PM   GLUCOSE-91 UREA N-14 CREAT-0.6 SODIUM-142 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-24 ANION GAP-18
___ 07:40PM   TSH-1.1
___ 07:40PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:40PM   WBC-7.2 RBC-4.22 HGB-12.8 HCT-39.4 MCV-93 
MCH-30.3 MCHC-32.5 RDW-12.7 RDWSD-43.7
___ 07:40PM   NEUTS-68.3 ___ MONOS-6.5 EOS-1.0 
BASOS-0.4 IM ___ AbsNeut-4.95 AbsLymp-1.70 AbsMono-0.47 
AbsEos-0.07 AbsBaso-0.03
___ 07:40PM   PLT COUNT-250
___ 07:00PM URINE  HOURS-RANDOM
___ 07:00PM URINE  UCG-NEGATIVE
___ 07:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 07:00PM URINE  COLOR-HAZY APPEAR-Clear SP ___
___ 07:00PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-MOD
___ 07:00PM URINE  RBC->182* WBC-64* BACTERIA-FEW 
YEAST-NONE EPI-6
 
Brief Hospital Course:
HOSPITAL COURSE SECTION OF DISCHARGE SUMMARY
.
___ yo F with PPHx of unspecified eating disorder with 
restrictive eating and purging features, depression and anxiety 
for years with worsening of depressive symptoms and suicidal 
ideation over several weeks in the context of stress at school 
and stressful family dynamics surrounding the recent separation 
of her parents.
.
 1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and later signed a 3 day notice on 
___. She was on 15 minute checks and green sharps 
throughout.
.
 2. PSYCHIATRIC:
#Unspecified Mood Disorder:
Patient was admitted with symptoms consistent with a major 
depressive episode, reporting feelings of worthlessness and 
hopelessness, anhedonia, lack of energy, decreased concentration 
as well as chronic passive suicidal ideation. She denied a clear 
history of manic symptoms of family history of formally 
diagnosed bipolar disorder. However, given that she reported a 
history of depressive symptoms for several years (perhaps 
starting at a young age given reported history of eating 
disorder starting at age ___, and has failed two full trials of 
SSRIs (Lexapro in past, and currently on Effexor for ___ months 
with no notable improvement in symptoms), bipolar spectrum 
disorder could not be excluded. In this setting it was felt to 
be reasonable to start a mood stabilizer.
-Effexor dose was decreased from 75 mg to 37.5 mg on ___. 
This can be further tapered as an outpatient.
-Discussed risks and benefits of treatment as well as risks of 
serious side effects with rapid uptitration of Lamictal and 
importance of medication adherence for safe uptitration. Patient 
agreed to starting low dose of Lamictal so Lamictal 25 mg was 
started on ___. 
-Patient tolerated this medication well and this can be 
uptitrated as an outpatient
-Also discussed risks and benefits of Wellbutrin in this patient 
given depressive symptoms as well as reported history of 
difficulty with concentration that seems to be long-standing, 
but ultimately deferred initiation of this medication given that 
we have only known this patient for a short time and true extent 
and status of her eating disorder with history of self-induced 
vomiting is not fully known. However, this may be considered as 
an outpatient
-Also discussed with patient the utility of neuropsychological 
testing for further evaluation of report difficulty with 
concentration. This can be considered as an outpatient
-At the time of discharge, patient was future oriented, 
motivated to start outpatient treatment, and felt safe with 
discharge plan back to home with school re-entry scheduled for 
next business day.
.
 3. MEDICAL
-No active medical issues 
.
4. PSYCHOSOCIAL
#GROUPS/MILIEU:  
 The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. She was 
seen to be social and visible on the unit and participated in 
some group activities and noted to be active by the OT team. 
.
#COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Spoke with outpatient therapist in ___ 
via phone.
Patient's mother was contacted via phone though was not able to 
be reached and did not return call
.
#INTERVENTIONS
-Effexor dose was decreased with plan to be further 
downtitrated. Lamictal was started.
-Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
-Coordination of aftercare: Follow-up with Dr. ___ for 
school re-entry at ___; Follow-up with Ms. 
___ at ___ who will set 
patient up with psychiatrist, PCP appointment at ___ 
___
.
 INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
 alternatives, including not taking the medication, with this 
patient. We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's  
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I 
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.
.
 RISK ASSESSMENT
On presentation, patient was evaluated and felt to be at an 
increased risk of harm to herself based upon her increasing 
depressed mood with SI with intent, hopelessness, feelings of 
worthlessness, no providers in ___, no strong social supports in 
___, discouragement from seeking psychiatric treatment by 
parents, family history of mental illness, parents' ongoing 
divorce. 
.
However, the patient has a number of protective factors 
including help-seeking nature, history of strong connection with 
therapist in ___, no history of substance use, supportive 
sister and mother, lack of plan for suicide, strong religious 
beliefs. During the admission she expressed motivation to engage 
in treatment with outpatient providers in ___ and future-oriented 
thinking. 
Her risk factors were addressed by arranging connections with 
outpatient providers, contacting family, encouraging her 
strengths and coping skills, starting new psychiatric 
medications, and arranging a safe discharge plan back to school. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Venlafaxine XR 75 mg PO DAILY 

 
Discharge Medications:
1.  LamoTRIgine 25 mg PO QHS 
RX *lamotrigine 25 mg 1 tablet(s) by mouth nightly Disp #*14 
Tablet Refills:*0 
2.  Venlafaxine XR 37.5 mg PO DAILY 
RX *venlafaxine 37.5 mg 1 capsule(s) by mouth daily Disp #*14 
Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified mood disorder, major depressive episode

 
Discharge Condition:
VS: T 98.6, BP 123/77, HR 78, RR 17, O2 100% RA

A: Well-groomed, in street clothes, good hygiene, appears stated 
age
B: Calm, cooperative, and pleasant. Good eye contact
S: Normal rate and volume. 
M: 'Good'
A: Mood congruent, reactive
TP: Linear, goal and future oriented
TC: Denies SI, HI, AVH. Does not appear internally preoccupied.
C: Awake, alert, fully oriented
I/J: Fair/fair
Ms. ___ shared about positive plans for future. She plans to 
return to the dormatory. She will resume studies. She also would 
like to continue with outpatient treatment.
 
Discharge Instructions:
You were hospitalized at ___ for worsening symptoms of 
depression.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way, including having suicidal ideation, 
planning, or intent, and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health. 
 
Followup Instructions:
___